US07932272B2
C-(5-(2-Cyclopropylvinyl)thiophen-2-yl)methylamine
2-(5-(2-Cyclopropylvinyl)thiophen-2-ylmethyl)isoindol-1,3-dione described in Preparation Example 150 (330 mg, 1.02 mmol) was dissolved in ethanol (50 mL), hydrazine monohydrate (500 mg, 10 mmol) was added thereto, and the solution was stirred under reflux for 2 hours. After cooling to room temperature, 2N sodium hydroxide solution (10 mL) and water (100 mL) were added to the reaction solution, which was then washed twice with hexane (50 mL). The organic layer was dried over anhydrous sodium sulfate, then, the solvent was evaporated in vacuo, and the title compound (180 mg, 1.01 mmol, 98.6%) was obtained as a colorless oil.

reactant | 2-(5-(2-Cyclopropylvinyl)thiophen-2-ylmethyl)isoindol-1,3-dione | C1(CC1)C=CC1=CC=C(S1)CN1C(C2=CC=CC=C2C1=O)=O | C18H15NO2S
reactant | hydrazine monohydrate | 10 mmol, 500 mg | O.NN
reactant | sodium hydroxide | 2N, 10 mL | [OH-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | C-(5-(2-Cyclopropylvinyl)thiophen-2-yl)methylamine | 1.01 mmol, 180 mg, 98.6% | C1(CC1)C=CC1=CC=C(S1)CN | C10H13NS
